US08211904B2
Step 1: methyl trans-6-phenylspiro[2.4]heptane-5-carboxylate
Chloroiodomethane (6.3 g, 35.5 mmol) was added to a 0° C. mixture containing 2.4 g (11.1 mmol) of methyl trans-4-methylene-2-phenylcyclopentanecarboxylate (J. Am. Chem. Soc. 1983, 105, 2315) in 25 mL of DCE followed by the addition of 17.8 mL (17.8 mmol) of Et2Zn (1M in hexanes). The reaction was stirred at 0° C. for 1 h before it was quenched with 1N HCl. The mixture was extracted with DCM (three times) and the combined extracts were dried over MgSO4 and concentrated. Column chromatography (9:1 Hexanes/EtOAc) afforded the desired compound as a colorless liquid.

reactant | Chloroiodomethane | 35.5 mmol, 6.3 g | ClCI | CH2ClI
reactant | methyl trans-4-methylene-2-phenylcyclopentanecarboxylate | 11.1 mmol, 2.4 g | C=C1C[C@H]([C@@H](C1)C(=O)OC)C1=CC=CC=C1 | C14H16O2
reactant | Et2Zn | 17.8 mmol, 1M, 17.8 mL | [Zn](CC)CC
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
product | methyl trans-6-phenylspiro[2.4]heptane-5-carboxylate | C1(=CC=CC=C1)[C@H]1[C@@H](CC2(CC2)C1)C(=O)OC | C15H18O2
